US07834039B2
To a solution of 3-(3-chloro-4-isopropoxyphenyl)-5-(1,2,3,4-tetrahydroisoquinolin-5-yl)-1,2,4-oxadiazole (0.0726 g, 0.196 mmol) in DMF (1.963 ml) was added K2CO3 (0.054 g, 0.393 mmol) followed by tert-butyl bromoacetate (0.030 ml, 0.206 mmol). After about 48 h the reaction mixture was filtered, concentrated in vacuo and purified by chromatography to provide tert-butyl 2-(5-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)-3,4-dihydroisoquinolin-2(1H)-yl)acetate as a colorless oil that solidified on standing. LCMS (Table 1, Method c) Rt=3.41 min, m/z 486 (M+H)+.

reactant | 3-(3-chloro-4-isopropoxyphenyl)-5-(1,2,3,4-tetrahydroisoquinolin-5-yl)-1,2,4-oxadiazole | 0.196 mmol, 0.0726 g | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=C2CCNCC2=CC=C1 | C20H20ClN3O2
reactant | K2CO3 | 0.393 mmol, 0.054 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl bromoacetate | 0.206 mmol, 0.030 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 1.963 ml | CN(C)C=O | C3H7NO
product | tert-butyl 2-(5-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)-3,4-dihydroisoquinolin-2(1H)-yl)acetate | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=C2CCN(CC2=CC=C1)CC(=O)OC(C)(C)C | C26H30ClN3O4
